US08232294B2
Step 3) 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl acetate
To a solution of 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropanol (172 mg, 1 mmol) and acetic acid (120 mg, 2 mmol, Shantou Xilong chemical factory) in 2 mL of DCM was added DMAP (12 mg, 0.1 mmol, aladdin) at rt. After stirring for 30 min, DCC (840 mg, 4 mmol, Aldrich) was added at 0° C. The reaction was quenched with water after all of 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropanol disappeared (monitored by TLC) (about 4 hours). The solid formed during the reaction was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE: EtOAc=20:1) to give the desired compound as yellow oil (130 mg, 60.7%).

reactant | 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropanol | 1 mmol, 172 mg | O1C(CCCC1)OCC1(CC1)O | C9H16O3
reactant | acetic acid | 2 mmol, 120 mg | C(C)(=O)O | C2H4O2
reactant | DCC | 4 mmol, 840 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl acetate | 130 mg, 60.7% | C(C)(=O)OC1(CC1)COC1OCCCC1 | C11H18O4
